US08476261B2
51A) Preparation of Ethyl 5-[[1-(hydroxymethyl)cyclobutyl]-methylamino]-2-(2,3,4,5-tetrafluorobenzoyl)acrylate
A stirred solution of ethyl 3-oxo-3-(2,3,4,5-tetrafluorophenyl)propionate (2.80 g, 10.6 mmol), Ac2O (6.01 mL, 63.6 mmol) and triethyl orthoformate (3.53 mL, 21.2 mmol) was heated at 120° C. for 3 hours. The mixture was concentrated in vacuo and dried under high vacuum. The crude product was dissolved in toluene (30 mL) and a suspension of [1-(aminomethyl)cyclobutyl]]methanol hydrochloride (1.60 g, 10.6 mmol) in toluene (20 mL) and triethylamine (1.48 mL, 10.6 mmol) were added under ice-cooling. The mixture was stirred at room temperature for 6 hours and concentrated in vacuo to yield the crude product. The crude product was purified by column chromatography (Hexane: EtOAc 10:1→2:1) to yield the title compound (1.88 g, 46%) as a white solid. 1H-NMR (400 MHz, CDCl3) δ 0.95-1.12 (3H, m), 1.66-1.69 (1H, m), 1.81-1.91 (4H, m), 1.94-2.03 (2H, m), 3.57 (2H, d, J=6.7 Hz), 3.72 (2H, d, J=4.3 Hz), 4.00-4.10 (2H, m), 6.96-7.12 (1H, m), 8.09-8.15 (1H, m), 9.65-11.15 (1H, m).

reactant | ethyl 3-oxo-3-(2,3,4,5-tetrafluorophenyl)propionate | 10.6 mmol, 2.80 g | O=C(CC(=O)OCC)C1=C(C(=C(C(=C1)F)F)F)F | C11H8F4O3
reactant | Ac2O | 63.6 mmol, 6.01 mL | CC(=O)OC(=O)C | C4H6O3
reactant | triethyl orthoformate | 21.2 mmol, 3.53 mL | C(OCC)(OCC)OCC | C7H16O3
reactant | methanol hydrochloride | 10.6 mmol, 1.60 g | Cl.CO
reactant | triethylamine | 10.6 mmol, 1.48 mL | C(C)N(CC)CC | C6H15N
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | Ethyl 5-[[1-(hydroxymethyl)cyclobutyl]-methylamino]-2-(2,3,4,5-tetrafluorobenzoyl)acrylate | 1.88 g, 46% | OCC1(CCC1)N(C1(C(C(=C(C(C(=O)C(C(=O)OCC)=C)=C1)F)F)F)F)C | C18H21F4NO4
